Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / egg / ceftriaxone
 
Attending: ___.
 
Chief Complaint:
Lethargy
 
Major Surgical or Invasive Procedure:
right femoral central venous line, right femoral arterial line
 
History of Present Illness:
___ w/ PMH of dementia, HLD, pernicious anemia (Jehovah's 
Witness), HTN, presenting from nursing home for lethargy. Was 
found to be unresponsive with O2 sat in ___ on RA. Placed on non 
rebreather, in EMS. In ED patient is ___ on ___. Patient is 
demented, unable to obtain any history. Pt was last admitted to 
___ in ___ with severe sepsis ___ to multifocal PNA, 
treated with vancomycin/meropenem/levofloxacin. Baseline mental 
status, does not follow commands.  

 In the ED, initial vital signs were: 102.4 121 ___ 89%  
 - Exam notable for lethargy, tachycardia, decreased breath 
sounds L>R. soft, extremities warm and well-perfused with 1+ DP 
pulses.
 - Labs notable for WBC 20.6 with 8% bandemia, Hb 9.3 g/dL with 
MCV of 101, PLT 222. Na 153, Cl 116, HCO3 21, Cr 1.2. ABG: 
7.46/34/289/25. UA with pyuria and bacteruria. Lactate 2.4.  
 - Studies performed include CXR w/ left mid and lower lung 
pneumonia  
 - Patient was given 2L IVF, levofloxacin 750mg, vancomycin 
1000mg, meropenem 500mg  
  
On arrival to the MICU,  pt is shivering and non-verbal. Does 
not follow commands. Opens eyes to voice. On levophed, 
tachycardic to 130s with MAPs in ___.
 
Review of systems:  
cannot assess given patient's mental status 

 
Past Medical History:
- dementia  
- hyperlipidemia  
- pernicious anemia  

 
Social History:
___
Family History:
Father with HTN  
Mother with DM  
Brother with DM  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
#ERROR!
Vitals:  HR 135, BP 151/74, RR 20, SpO2 69%/2L NC
HEENT: AT/NC, dry mucus memebranes, edentulous
NECK: no JVD  
CARDIAC: tachycardic, regular rhythm, S1/S2, no murmurs, 
gallops, or rubs  
LUNG: tachypnea, diminished breath sounds at bases. No crackles, 
wheezes, or ronchi appreciated
ABDOMEN: flat, taut. +BS.
EXTREMITIES: no cyanosis, clubbing or edema, warm, dry
PULSES: 2+ DP pulses bilaterally  
NEURO: somnolent

DISCHARGE PHYSICAL EXAM
#ERROR!
HEENT: AT/NC, dry mucus memebranes, edentulous
NECK: no JVD  
CARDIAC: tachycardic, regular rhythm, S1/S2, no murmurs, 
gallops, or rubs  
LUNG: tachypnea, diminished breath sounds at bases. No crackles, 
wheezes, or rhonchi appreciated
ABDOMEN: flat, taut. +BS.
EXTREMITIES: no cyanosis, clubbing or edema, warm, dry
PULSES: 2+ DP pulses bilaterally  
NEURO: eyes open but not interactive

 
Pertinent Results:
ADMISSION LABS
#ERROR!
___ 09:22AM   WBC-19.5*# RBC-3.60* HGB-11.1* HCT-37.1* 
MCV-103* MCH-30.8 MCHC-29.9* RDW-15.1 RDWSD-55.3*
___ 09:22AM   NEUTS-87* BANDS-8* LYMPHS-2* MONOS-3* EOS-0 
BASOS-0 ___ MYELOS-0 AbsNeut-18.53* AbsLymp-0.39* 
AbsMono-0.59 AbsEos-0.00* AbsBaso-0.00*
___ 09:22AM   HYPOCHROM-NORMAL ANISOCYT-1+ POIKILOCY-NORMAL 
MACROCYT-2+ MICROCYT-NORMAL POLYCHROM-NORMAL OVALOCYT-1+ 
SCHISTOCY-OCCASIONAL BURR-1+ TEARDROP-1+
___ 09:22AM   PLT SMR-NORMAL PLT COUNT-254
___ 09:28AM   GLUCOSE-89 LACTATE-2.4* NA+-148* K+-4.3 
CL--111*
___ 09:28AM   ___ PO2-32* PCO2-43 PH-7.40 TOTAL CO2-28 
BASE XS-0
___ 09:55AM URINE  RBC-5* WBC->182* BACTERIA-MANY 
YEAST-NONE EPI-0
___ 09:55AM URINE  BLOOD-MOD NITRITE-POS PROTEIN-100 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-4* PH-6.0 LEUK-LG
___ 09:55AM   ___ PTT-29.5 ___

PERTINENT LABS/MICROBIOLOGY
#ERROR!
URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------       R
CEFTAZIDIME-----------    16 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

DISCHARGE LABS
#ERROR!
___ 05:23AM BLOOD WBC-16.5* RBC-2.65* Hgb-7.9* Hct-25.5* 
MCV-96 MCH-29.8 MCHC-31.0* RDW-14.4 RDWSD-50.4* Plt ___
___ 05:23AM BLOOD Glucose-88 UreaN-11 Creat-0.7 Na-141 
K-3.8 Cl-115* HCO3-19* AnGap-11
___ 05:23AM BLOOD Calcium-7.8* Phos-2.6* Mg-2.0

IMAGING
#ERROR!
___ CXR
New left mid and lower lung opacities concerning for pneumonic 
infiltrates.

___ CXR
Worsening multifocal pneumonia. Right PICC line terminates at 
the cavoatrial junction. 

 
Brief Hospital Course:
___ Jehovah's Witness with dementia, HTN, pernicious anemia 
presented from nursing home with fatigue, found to have sepsis 
with pulmonary and urinary sources. He was started on 
vancomycin, meropenem, and levofloxacin for empiric treatment of 
HCAP and UTI on ___, and Levofloxacin was stopped on ___. 
Urine culture was positive for E. coli resistant to 
ciprofloxacin, ceftriaxone and sensitive to meropenem. He was 
continued on Vanc & ___ via a PICC. Patient also met with 
palliative care; he and his family decided to transition to 
Hospice Care after hospital discharge.

# SEPTIC SHOCK
# Pneumonia
# Complicated UTI
Initially presented with hypotension, tachycardia, leukocytosis 
with bandemia and elevated lactated with left middle and lower 
lobe opacities and urine culture growing E. coli sensitive to 
meropenem. He was started on vancomycin, meropenem, and 
levofloxacin for empiric treatment of HCAP and UTI on ___. 
He was fluid resuscitated and blood pressure was supported 
temporarily with norepinephrine. Levofloxacin was discontinued 
on ___. Blood cultures remained negative to date. Legionella 
urine antigen was negative. Urine culture was positive for E. 
coli resistant to ciprofloxacin, ceftriaxone and sensitive to 
meropenem. He was continued on vancomycin & meropenem for an 14 
day course to complete ___.
 
#TACHYCARDIA: Etiology could be secondary to hypovolemia, pain, 
anemia, or increased sympathetic activity from beta blocker 
withdrawal (takes Metoprolol Succinate XL 50 mg daily). EKG 
consistent with sinus tachycardia, narrow complex. Patient was 
given standing IV Tylenol for pain control. Metoprolol was held 
in setting of septic shock. 

#HYPERNATREMIA: Patient was hypernatremic to 153 on admission. 
Patient was given ___ bolus and D5W after initial fluid 
resuscitation that normalized sodium. 

#HYPOGLYCEMIA: likely due to poor nutritional reserve in the 
setting of prolonged decreased PO. Family declined feeding tube 
and patient failed S&S. 

#ANEMIA: Not on medication for PA. Pt refuses blood products as 
Jehovah's Witness. No evidence of acute bleeding. Macrocytosis 
is consistent with PA. Vitamin B12 level at 790. He was started 
on cyanocobalamin 1000mcg IM weekly, first dose ___.

TRANSITIONAL ISSUES:
# ANTIBIOTICS: Patient should continue 10-day course of 
Vancomycin & Meropenem through ___
# DIET: Patient failed speech & swallow evaluation, and is 
currently NPO. If it is within his goals of care to eat for 
comfort in the future, please discuss this with the family.
# GOALS OF CARE: Patient is DNR/DNI, please refer to MOLST form 
# HOSPICE: Case manager at ___ is arranging for outpatient 
hospice at his facility  
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Polyethylene Glycol 17 g PO DAILY 
2. Senna 8.6 mg PO BID 
3. Docusate Sodium 100 mg PO BID 
4. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1.  Meropenem 500 mg IV Q6H 
RX *meropenem 500 mg 500 mg IV q6 hours Disp #*24 Vial 
Refills:*0 
2.  Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush  
3.  Vancomycin 1000 mg IV Q 12H 
RX *vancomycin 1 gram 1 g IV q12 hours Disp #*12 Vial Refills:*0 

4.  Docusate Sodium 100 mg PO BID  
5.  Polyethylene Glycol 17 g PO DAILY  
6.  Senna 8.6 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# SEPTIC SHOCK SECONDARY TO PNEUMONIA
# URINARY TRACT INFECTION
# HYPERNATREMIA
# HYPERTENSION

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you. You were admitted to ___ 
for shortness of breath and low oxygen. While you were here, you 
were treated with antibiotics, and you got medicines to help 
support your blood pressure. You met with our palliative care 
team, and you and your family decided to transition your care to 
hospice. We will also continue treating your infection when you 
leave the hospital.

We wish you all the best in the future.

Sincerely,
Your ___ Care Team  
 
Followup Instructions:
___